US05925766
7-Bromo-6-methoxy-3-(1-piperazinyl)-1,2-benzisoxazole hydrochloride
To a sealed tube was added 7-bromo-3-chloro-6-methoxy-1,2-benzisoxazole (2.0 g) and piperazine (2.6 g). The reaction was heated to 140° C. over 30 minutes and then cooled to room temperature. The residue was dissolved in MeOH and concentrated in vacuo. Flash column chromatography (silica gel) eluting with 30% MeOH/EtOAc provided a residue upon evaporation (1.0 g) which was recrystallized from MeOH/CH2Cl2 /pet. ether to yield 1.0 g, m.p. 268-269° C.

reactant | 7-bromo-3-chloro-6-methoxy-1,2-benzisoxazole | 2.0 g | BrC1=C(C=CC=2C(=NOC21)Cl)OC | C8H5BrClNO2
reactant | piperazine | 2.6 g | N1CCNCC1 | C4H10N2
solvent | MeOH | CO | CH4O
product | 7-Bromo-6-methoxy-3-(1-piperazinyl)-1,2-benzisoxazole hydrochloride | Cl.BrC1=C(C=CC=2C(=NOC21)N2CCNCC2)OC | InChI=1S/C12H14BrN3O2.ClH/c1-17-9-3-2-8-11(10(9)13)18-15-12(8)16-6-4-14-5-7-16;/h2-3,14H,4-7H2,1H3;1H
